US06605620B1
Synthesis of 1-(tert-Butoxycarbonyl)-4-[N-(4-methoxyphenyl)-N-[(2-phenylpyridin-4-yl)methyl]amino]piperidine
4-(p-Anisidino)-1-(tert-butoxycarbonyl)piperidine (612 mg) and 4-chloromethyl-2-phenylpyridine (204 mg) were condensed in the same manner as described in Example 9 to give the title compound.

reactant | 4-(p-Anisidino)-1-(tert-butoxycarbonyl)piperidine | 612 mg | COC1=CC=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O3
reactant | 4-chloromethyl-2-phenylpyridine | 204 mg | ClCC1=CC(=NC=C1)C1=CC=CC=C1 | C12H10ClN
product | 1-(tert-Butoxycarbonyl)-4-[N-(4-methoxyphenyl)-N-[(2-phenylpyridin-4-yl)methyl]amino]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=CC(=NC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC | C29H35N3O3
